US03974212
Step E: 2-Methyl-2-isopropyl-5-hydroxy-6,7-dichloro-1-indanone
A stirred suspension of 2-methyl-2-isopropyl-5-methoxy-6,7-dichloro-1-indanone (7.0 g., 0.0244 mole) and aluminum chloride (9.0 g., 0.068 mole) in heptane (400 ml.) is refluxed for 1 hour and cooled. The heptane is decanted from the reaction mixture and the solid residue is poured into water (300 ml.) and concentrated hydrochloric acid (20 ml.). The crude product is extracted into ether (300 ml.), washed with water, dried over magnesium sulfate, distilled to a volume of 100 ml. and treated with hexane (100 ml.). The 2-methyl-2-isopropyl-5-hydroxy-6,7-dichloro-1-indanone which separates (6.5 g.) melts at 215°C.

reactant | 2-methyl-2-isopropyl-5-methoxy-6,7-dichloro-1-indanone | 0.0244 mole, 7.0 g | CC1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C(C)C | C14H16Cl2O2
reactant | aluminum chloride | 0.068 mole, 9.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | heptane | 400 ml | CCCCCCC | C7H16
product | 2-Methyl-2-isopropyl-5-hydroxy-6,7-dichloro-1-indanone | CC1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C(C)C | C13H14Cl2O2
